* Testing AM/PM using nonlinear RC circuit
* Measring anplitude/phase noise at fundamental frequency
*
* -------------------------------------------------------------------------------
* f(x) = x^2
* i = f( v + vn )
* v = v1*cos(w*t)
* ------ Calculations -----------------------------------------------------------

.param R0 = 100
.param C1 = 100f
.param C2 = 35f
.param G2 = 2m

VIN 1 0 0 SIN(0 1 10e9 0 0 90) ac 1 ;
R1 2 1 R0 ; 
C1 2 0 Q={C1*V(2) + C2*V(2)*V(2)}
B1 2 0 I={G2*V(2,0)*V(2,0)}

.hb 10e9
.options hbint numfreq=10 tahb=0
.options nonlin-hb abstol=1e-8
.print hb {2*V(2)}
 
.hbnoise V(2) 1 DEC 2 1 10
.print hbnoise amnoise pmnoise dan(R1) dpn(R1)

* .print hbnoise {abs(amnoise)} pmnoise dan(R1) dpn(R1)
